US08664230B2
To a solution of 5-bromo-2-chloropyridin-3-amine (1.00 g, 4.82 mmol) in pyridine (2.41 ml) was dropwise added benzenesulfonyl chloride (0.851 g, 4.82 mmol) at 0° C. The mixture was stirred for 40 min at room temperature and acidified with 1 N HCl. The residue was extracted with EtOAc and the combined organic layers were washed with brine, dried over anhydrous Na2SO4, filtered and concentrated in vacuo to give N-(5-bromo-2-chloropyridin-3-yl)-N-(phenylsulfonyl)benzenesulfonamide (0.606 g, 26% yield) as a white solid. 1H-NMR (CDCl3, Varian 400 MHz) δ 7.02 (1H, s), 7.47-7.56 (2H, m), 7.59-7.66 (1H, m), 7.78-7.86 (2H, m), 8.16 (2H, dd, J=2.4, 7.2 Hz).

reactant | 5-bromo-2-chloropyridin-3-amine | 4.82 mmol, 1.00 g | BrC=1C=C(C(=NC1)Cl)N | C5H4BrClN2
reactant | benzenesulfonyl chloride | 4.82 mmol, 0.851 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | HCl | 1 N | Cl | ClH
solvent | pyridine | 2.41 ml | N1=CC=CC=C1 | C5H5N
product | N-(5-bromo-2-chloropyridin-3-yl)-N-(phenylsulfonyl)benzenesulfonamide | 0.606 g, 26% yield | BrC=1C=C(C(=NC1)Cl)N(S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C17H12BrClN2O4S2
